US06750232B2
2-Amino-6-(2-furyl)-5-(4-propyl-3-pyridyl)-3-pyridinecarbonitrile
2-Amino-6-(2-furyl)-5-(6-oxo-1,6-dihydro-3-pyridinyl)nicotinonitrile (20 mg, 0.072 mmol) and potassium carbonate (30 mg, 0.22 mmol) were introduced into a reaction vessel, dissolved in N,N-dimethylformamide (1 mL). Propyl iodide (52 mg, 0.31 mmol) was added thereto, followed by stirring at 70° C. for 18 hours. After the reaction was finished, water was added thereto, and it was extracted with ethyl acetate. After removing the aqueous layer, the organic layer was concentrated and purified by high performance liquid chromatography, to give the title product as a yellow solid (2.6 mg, 11%; 1.8 mg, 7.8%).

reactant | 2-Amino-6-(2-furyl)-5-(6-oxo-1,6-dihydro-3-pyridinyl)nicotinonitrile | 0.072 mmol, 20 mg | NC1=C(C#N)C=C(C(=N1)C=1OC=CC1)C1=CNC(C=C1)=O | C15H10N4O2
reactant | potassium carbonate | 0.22 mmol, 30 mg | C([O-])([O-])=O.[K+].[K+]
reactant | Propyl iodide | 0.31 mmol, 52 mg | C(CC)I | C3H7I
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | 2-Amino-6-(2-furyl)-5-(4-propyl-3-pyridyl)-3-pyridinecarbonitrile | 2.6 mg | NC1=NC(=C(C=C1C#N)C=1C=NC=CC1CCC)C=1OC=CC1 | C18H16N4O
